US09085576B2
A solution of methyl 2-(2-fluoropropanamido)-3-hydroxypropanoate (0.69 g, 3.60 mmol) in DCM (36.0 ml) was cooled to −20° C. and deoxo-fluor (50% in THF; 0.73 ml, 3.96 mmol, Fluka Chemie GmbH) was added dropwise. The reaction mixture was allowed to stir for 1 hour. Bromotrichloromethane (1.276 ml, 12.96 mmol, Sigma-Aldrich Chemical Company, Inc.) was added followed by addition of DBU (1.936 ml, 12.96 mmol, TCI). The reaction mixture was allowed to warm to 0° C. and stirred for 3 h. The reaction was quenched by the addition of aqueous, saturated NaHCO3 solution and extracted with CH2Cl2. The organic extract was washed with water, brine and dried over MgSO4. The solvent was removed in vacuo and the crude product was purified by silica gel chromatography, eluting with a gradient of 1% to 10% 2M NH3.MeOH in CH2Cl2, to provide methyl 2-(1-fluoroethyl)oxazole-4-carboxylate (0.2746 g, 1.586 mmol, 44.1% yield). MS m/z=173.9 [M]+; Calculated for C7H8FNO3: 173.049

reactant | methyl 2-(2-fluoropropanamido)-3-hydroxypropanoate | 3.60 mmol, 0.69 g | FC(C(=O)NC(C(=O)OC)CO)C | C7H12FNO4
reactant | deoxo-fluor | 3.96 mmol, 0.73 ml | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | Bromotrichloromethane | 12.96 mmol, 1.276 ml | BrC(Cl)(Cl)Cl | CBrCl3
reactant | DBU | 12.96 mmol, 1.936 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DCM | 36.0 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | methyl 2-(1-fluoroethyl)oxazole-4-carboxylate | 1.586 mmol, 0.2746 g, 44.1% yield | FC(C)C=1OC=C(N1)C(=O)OC | C7H8FNO3
